US04260619
The starting material is prepared as follows: The mixture of 0.5 g of 2-(2-aminopropyl)-5-pyridinol hydrochloride, 0.85 g of benzoyl chloride, 10 ml of methylene chloride and 10 ml of saturated aqueous sodium bicarbonate is stirred at room temperature for 1 hour. The organic phase is separated, dried evaporated and the residue recrystallized from diethyl ether to give the dibenzoyl-2-(2-aminopropyl)-5-pyridinol melting at 110°-112°.

reactant | 2-(2-aminopropyl)-5-pyridinol hydrochloride | 0.5 g | Cl.NC(CC1=NC=C(C=C1)O)C
reactant | benzoyl chloride | 0.85 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | dibenzoyl-2-(2-aminopropyl)-5-pyridinol | C(C1=CC=CC=C1)(=O)C1=C(C(=NC=C1O)CC(C)N)C(C1=CC=CC=C1)=O | C22H20N2O3
